US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (290 mg) is dissolved in ethanol (5 ml) and thereto is added a 2N-aqueous sodium hydroxide solution (604 μl) and the mixture is stirred at room temperature overnight. Thereto are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (277 mg). The resulting carboxylic acid is dissolved in ethanol (1 ml) and thereto is added 2N-aqueous sodium hydroxide solution (200 μl), and the reaction solution is concentrated under reduced pressure to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid sodium salt (278 mg). MS (m/z): 691 [M−Na]−

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 290 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCC)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C34H37F9N4O3
reactant | sodium hydroxide | 604 μl | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 277 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CCC)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C32H33F9N4O3
